US06500863B1
N-Methyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide.
A solution of N-methyl-2-acetyl-6-chloro-3-nitrobenzenesulfonamide (170 mg, 0.55 mmol), 0.5 mL of chlorotrimethylsilane and 3 drops of fuming sulfuric acid in ethanol was heated to reflux for 20 hours. The solvent was evaporated. The residue was diluted with ethyl acetate and washed with water. The organic layer was then dried (Na2SO4) and concentrated to give the desired product (160 mg, >100%). EI-MS (m/z) 265.2, 267.2 (M−).

reactant | N-methyl-2-acetyl-6-chloro-3-nitrobenzenesulfonamide | 0.55 mmol, 170 mg | CNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])C(C)=O | C9H9ClN2O5S
reactant | chlorotrimethylsilane | 0.5 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | ethanol | C(C)O | C2H6O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | N-Methyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 160 mg, >100% | CNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C7H7ClN2O5S
